US06046201
12-Aminododecanol
In 600 ml of methanol was dissolved while warming 48.0 g of N-(12-hydroxydodecyl)phthalimide, 50 ml of hydrazine monohydrate was added at room temperature with stirring and the mixture was stirred overnight. The crystal thus separated out was filtered off and the solvent was distilled off. The residue was extracted with hot chloroform and insolubles were filtered off. The filtrate was distilled, the residue was extracted with hot chloroform (100 ml×3) and then the solvent was distilled off. The residue was dissolved in methanol and recrystallization from methanol-ethyl acetate gave 21.6 g of the title compound as a crystal.

reactant | N-(12-hydroxydodecyl)phthalimide | 48.0 g | OCCCCCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C20H29NO3
reactant | hydrazine monohydrate | 50 ml | O.NN
solvent | methanol | 600 ml | CO | CH4O
product | 12-Aminododecanol | 21.6 g | NCCCCCCCCCCCCO | C12H27NO
